** sch_path: /home/thilak-t/Desktop/Sram_Dram/sram_dc.sch
**.subckt sram_dc BLB WL BL QB Q
*.ipin BLB
*.ipin WL
*.ipin BL
*.opin QB
*.opin Q
XM1 QB Q gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 Q QB net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 QB Q net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 Q QB gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM5 BLB WL QB gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 Q WL BL gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
V1 net1 gnd 1.8v
V2 BLB gnd PULSE(1.8 0 0 0 0 0 2u)
V3 BL gnd PULSE(0 1.8 0 0 0 0 2u)
V4 QB gnd 1.8v
V5 WL gnd PULSE(0 1.8 0 0 0 0 4u)
**** begin user architecture code


.dc V4 0 1.8 0.01
.save all


.lib /home/thilak-t/Desktop/eda_tools/open_pdks/sky130/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL gnd
.end
