** sch_path: /home/thilak-t/Desktop/Sram_Dram/sram_ncurve.sch
**.subckt sram_ncurve vdd bl blb wl qb q
*.ipin vdd
*.ipin bl
*.ipin blb
*.ipin wl
*.opin qb
*.opin q
XM1 qb q gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 qb q vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 q qb gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 q qb vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM5 bl wl qb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 blb wl q gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
V1 vdd gnd dc 1.8
V2 wl gnd dc 1.8
V4 bl gnd dc 1.8
V5 blb gnd dc 1.8
vin qb gnd dc 0
**** begin user architecture code
.lib /home/thilak-t/Desktop/eda_tools/open_pdks/sky130/sky130A/libs.tech/combined/sky130.lib.spice tt


.dc vin 0 1.8 0.01
.control
run
plot -I(vin)
.endc
.end


**** end user architecture code
**.ends
.GLOBAL gnd
.end
