** sch_path: /home/thilak-t/Desktop/Sram_Dram/sram_write.sch
**.subckt sram_write BLB WL BL QB Q vdd
*.ipin BLB
*.ipin WL
*.ipin BL
*.opin QB
*.opin Q
*.ipin vdd
XM1 QB Q gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM2 Q QB vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 QB Q vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 Q QB gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM5 BLB WL QB gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
XM6 BL WL Q gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1
V1 vdd gnd dc 1.8
V2 BLB gnd PWL( 0u 1.8 0.3u 1.8 0.4u 0 4u 0 7.5u 1.8 8u 1.8 20u 1.8 )
V3 BL gnd PWL( 0u 0 0.3u 0 0.4u 1.8 20u 1.8 )
V5 WL gnd PWL( 0u 0 1u 0 1.1u 1.8 3.5u 1.8 3.6u 0 8.5u 0 8.6u 1.8 11.5u 1.8 11.6u 0 20u 0 )
**** begin user architecture code


.ic V(Q)=0 V(QB)=1.8
.tran 100p 20u
.control
run
plot V(WL)+10 V(BL)+8 V(BLB)+6 V(Q)+4 V(QB)+2
plot V(Q)+5 V(QB)+0
.endc
.end


.lib /home/thilak-t/Desktop/eda_tools/open_pdks/sky130/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.GLOBAL gnd
.end
